US04243670
15.1 g (0.05 mol) of 1-[α-(4-biphenylyl)-benzyl]-imidazole and 15.2 g (0.05 mol) of 2-chlorophenyl-diphenylmethyl chloride are suspended in 400 ml of acetonitrile and the suspension is heated to 80° C. for 24 hours. It is then filtered and the filtrate is concentrated by distilling off the solvent. The residue crystallises after trituration with ether. 13 g (42% of theory) of 1-[α-(4-biphenylyl)-benzyl]-3-(2-chlorophenyl-diphenyl-methyl)-imidazolium chloride of melting point 140° C. (with decomposition) are obtained.

reactant | 1-[α-(4-biphenylyl)-benzyl]-imidazole | 0.05 mol, 15.1 g | C1(=CC=C(C=C1)C(C1=CC=CC=C1)N1C=NC=C1)C1=CC=CC=C1 | C22H18N2
reactant | 2-chlorophenyl-diphenylmethyl chloride | 0.05 mol, 15.2 g | ClC1=C(C=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H14Cl2
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | 1-[α-(4-biphenylyl)-benzyl]-3-(2-chlorophenyl-diphenyl-methyl)-imidazolium chloride | 13 g, 42% | [Cl-].C1(=CC=C(C=C1)C(C1=CC=CC=C1)[N+]1=CN(C=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=C(C=CC=C1)Cl)C1=CC=CC=C1 | InChI=1S/C41H32ClN2.ClH/c42-39-24-14-13-23-38(39)41(36-19-9-3-10-20-36,37-21-11-4-12-22-37)44-30-29-43(31-44)40(34-17-7-2-8-18-34)35-27-25-33(26-28-35)32-15-5-1-6-16-32;/h1-31,40H;1H/q+1;/p-1
